US03978226
A solution of 9-formamidoxanthen (30.5 g.) in tetrahydrofuran (400 ml.) was added to a suspension of lithium aluminium hydride (5.2 g.) in tetrahydrofuran (100 ml.) at room temperature. The mixture was stirred and refluxed for 5 hours, left to stand at room temperature overnight and then decomposed by the addition of water (5.2 ml.), 5N sodium hydroxide solution (4 ml.) and water (16.8 ml.). The suspension was filtered, the solid was washed with ether, and the combined filtrate and washings were evaporated. The residual syrup was dissolved in ether and extracted into 3N acetic acid solution (500 ml.) at 5° - 10°C. The aqueous extract was basified, the oil which separated was collected in ether and the dried, ethereal extract was evaporated. The residue was distilled to give 9-methylaminoxanthen, b.p. (bath) 110°C./0.1 mm.

reactant | 9-formamidoxanthen | 30.5 g | C(=O)NC1C2=CC=CC=C2OC=2C=CC=CC12 | C14H11NO2
reactant | lithium aluminium hydride | 5.2 g | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | water | 5.2 ml | O | H2O
reactant | sodium hydroxide | 5N, 4 ml | [OH-].[Na+]
reactant | water | 16.8 ml | O | H2O
solvent | tetrahydrofuran | 400 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 100 ml | O1CCCC1 | C4H8O
product | 9-methylaminoxanthen | CNC1C2=CC=CC=C2OC=2C=CC=CC12 | C14H13NO
